### PR TITLE
Added lemma uniq_map_indexE and uniq_map_in_inj to seq

### PR DESCRIPTION
**Pull request by hivert**
##### Motivation for this change

Add some missing lemma about unicity and map in seq.v
Should be ready for review now.

##### Minimal TODO list

- [x] added changelog entries with `doc/changelog/make-entry.sh`

- [ ] added corresponding documentation in the headers
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [x] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

File: boot/seq.v [hunk 1]
```diff
@@ -2856,6 +2856,20 @@ move: s_x; rewrite inE; have [-> // | _] := eqVneq; apply: IHs.
 by apply: sub_in2 inj_f => z; apply: predU1r.
 Qed.
 
+Lemma uniq_map_indexE s :
```
Comment (proux01) [inline boot/seq.v]: Maybe
```suggestion
Lemma index_map_uniq s :
```
since it's a variant of `index_map`? (also, it's not really Eliminating `index`)
That being said, I wonder if it wouldn't be better to first prove the stronger `index_map_in : {in s &, injective f} -> index (f x) (map f s) = index x s` and deduce the current lemma from it?

File: boot/seq.v [hunk 2]
```diff
@@ -2856,6 +2856,20 @@ move: s_x; rewrite inE; have [-> // | _] := eqVneq; apply: IHs.
...
+  uniq (map f s) -> forall x, x \in s -> index (f x) (map f s) = index x s.
+Proof.
+move=> f_uniq x /[dup] xins /map_f fxinfs; apply/eqP.
+rewrite -(nth_uniq (f x) _ _ f_uniq) ?index_mem ?size_map ?index_mem //.
+by rewrite nth_index // (nth_map x) ?index_mem // nth_index.
+Qed.
+
+Lemma uniq_map_in_inj s : uniq (map f s) -> {in s &, injective f}.
```
Comment (proux01) [inline boot/seq.v]:
```suggestion
Lemma uniq_map_inj_in s : uniq (map f s) -> {in s &, injective f}.
```
(that convention seems a bit more common)

File: boot/seq.v (hunk 1 above)
Comment (hivert) [reply boot/seq.v]: The problem is that bu doing so, I don't now anymore how to prove 
```
Lemma uniq_map_inj_in s : uniq (map f s) -> {in s &, injective f}.
```

Comment (hivert) [reply boot/seq.v]: I decided to reprove it anyway and have your two suggested lemmas.

**Comment by hivert** [comment]
I just added two more missing lemmas `take_mkseq` and `drop_mkseq`.
